US05098929
A solution of ethyl magnesium bromide (70 ml, 1.3M in tetrahydrofuran) was stirred at 0°, under nitrogen. 2,2-Dimethyl-5-ethyl-5-formyl-1,3-dioxane (10.3 g.) in dry tetrahydrofuran (20 ml.) was added and the mixture was stirred at room temperature for three hours. The mixture was then refluxed, with stirring, for one hour. Saturated aqueous ammonium chloride solution was added to the cooled reaction mixture. The aqueous mixture was extracted with ether. The ether extracts were washed with water, dried over anhydrous magnesium sulphate and the solvent was removed in vacuo. The residue was purified by chromatography on silica gel, eluting with 40% ether hexane. 2,2-Dimethyl-5-ethyl-5-(1-hydroxy propyl)-1,3-dioxane was obtained as a colourless oil (10.0 g.).

reactant | ethyl magnesium bromide | 1.3M, 70 ml | C(C)[Mg]Br
reactant | 2,2-Dimethyl-5-ethyl-5-formyl-1,3-dioxane | 10.3 g | CC1(OCC(CO1)(C=O)CC)C | C9H16O3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 2,2-Dimethyl-5-ethyl-5-(1-hydroxy propyl)-1,3-dioxane | CC1(OCC(CO1)(C(CC)O)CC)C | C11H22O3
